US09085517B2
Ethyl 4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}benzoate
To a solution of 4-chloro-3-(trifluoromethyl)phenol (190 mg, 0.97 mmol) in DMSO (5.0 mL) was added potassium carbonate (276 mg, 2.0 mmol). The reaction mixture was stirred at room temperature for 10 minutes, before addition of ethyl 4-(bromomethyl)benzoate (235 mg, 0.97 mmol). The resulting mixture was heated to 70° C. with stirring for 3 hours before cooling back to room temperature. Water (50 mL) and EtOAc (50 mL) were added and the layers partitioned. The aqueous fractions were washed with EtOAc (2×50 mL) and the combined organic layers dried over magnesium sulfate, filtered and concentrated in vacuo to yield a white solid as the title compound (350 mg, 100%).

reactant | 4-chloro-3-(trifluoromethyl)phenol | 0.97 mmol, 190 mg | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-(bromomethyl)benzoate | 0.97 mmol, 235 mg | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
reactant | Water | 50 mL | O | H2O
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | Ethyl 4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}benzoate | 350 mg, 100% | ClC1=C(C=C(OCC2=CC=C(C(=O)OCC)C=C2)C=C1)C(F)(F)F | C17H14ClF3O3
